US07507821B2
U.S. Pat. No. 5,521,184 and application WO 03/066613 describe several synthetic routes for preparing Imatinib. One synthetic process, described in Scheme 1, comprises reacting 4-(4-methyl-piperazin-1-ylmethyl)-benzoic acid methyl ester with 3-nitro-4-methyl-aniline to obtain N-(4-methyl-3-nitrophenyl)-4-(4-methyl-piperazin-1-ylmethyl)-benzamide, which is subsequently reduced to obtain N-(3-amino-4-methyl-phenyl)-4-(4-methyl-piperazin-1-ylmethyl)-benzamide. The latter is reacted with cyanamide (NH2CN) in a mixture of concentrated hydrochloric acid solution and n-butanol to produce N-(3-guanidino-4-methyl-phenyl)-4-(4-methyl-piperazin-1-ylmethyl)-benzamide, which is subsequently reacted with 3-dimethylamino-1-pyridin-3-yl-propenone to obtain Imatinib.

reactant | Imatinib | CC=1C=CC(=CC1NC=2N=CC=C(N2)C=3C=CC=NC3)NC(=O)C=4C=CC(=CC4)CN5CCN(CC5)C | C29H31N7O
reactant | 4-(4-methyl-piperazin-1-ylmethyl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)CN1CCN(CC1)C)=O | C14H20N2O2
reactant | 3-nitro-4-methyl-aniline | [N+](=O)([O-])C=1C=C(N)C=CC1C | C7H8N2O2
product | N-(4-methyl-3-nitrophenyl)-4-(4-methyl-piperazin-1-ylmethyl)-benzamide | CC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)CN1CCN(CC1)C)=O)[N+](=O)[O-] | C20H24N4O3
